US05138067
(118) Preparation of 5-bromomethyl-2-phenyl-1,3-dioxane m2
To a vigorously stirred solution of 19.4 g (0.1M) of 5-hydroxymethyl-2-phenyl-1,3-dioxane ml and 33.1 g (0.1M) of tetrabromomethane in 60 ml of anhydrous benzene at 70° C., is added 26.2 g (0.1M) of triphenylphosphine in 45 minutes. After stirring at 70° C. for an another 30 minutes, the solvent is evaporated. To the residue is added 200 ml of ether and ether insoluble triphenylphosphine oxide is removed by filtration. After repeating this procedure twice, the solvent of the filtrated is evaporated. Distillation of the residual product gives 19.391 g (75.4% yield) of the titled compound m2. B.P. 145°~158° C. (1 mmHg).

reactant | 5-hydroxymethyl-2-phenyl-1,3-dioxane | 0.1M, 19.4 g | OCC1COC(OC1)C1=CC=CC=C1 | C11H14O3
reactant | tetrabromomethane | 0.1M, 33.1 g | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.1M, 26.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 5-bromomethyl-2-phenyl-1,3-dioxane | 19.391 g, 75.4% yield | BrCC1COC(OC1)C1=CC=CC=C1 | C11H13BrO2
